US08211892B2
0.095 g of 1-[4-(pyrimidin-2-ylmethoxy)phenyl]-1,2,3,4-tetrahydroquinoxaline is placed in 3 ml of dichloromethane at 0° C. under nitrogen. 0.09 ml of triethylamine and 0.031 g of triphosgene are added. The mixture is stirred at ambient temperature for 2 h 30, 0.01 g of triphosgene is then added and stirring is maintained for 2 h. 0.12 ml of triethylamine and 0.062 g of adamantan-2-ylamine hydrochloride are then added. Stirring is maintained at ambient temperature for 1 h. After hydrolysis, the reaction medium is extracted with ethyl acetate until the aqueous phase has been completely extracted. The organic phases are combined, washed with a saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated to dryness. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of methanol in dichloromethane varying from 0% to 9/1. 0.03 g of 4-[4-(pyrimidin-2-ylmethoxy)phenyl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid adamantan-2-ylamide is obtained, which is triturated from a mixture of ethyl acetate and diisopropyl ether.

reactant | 1-[4-(pyrimidin-2-ylmethoxy)phenyl]-1,2,3,4-tetrahydroquinoxaline | 0.095 g | N1=C(N=CC=C1)COC1=CC=C(C=C1)N1CCNC2=CC=CC=C12 | C19H18N4O
reactant | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.031 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triphosgene | 0.01 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | adamantan-2-ylamine hydrochloride | 0.062 g | Cl.C12C(C3CC(CC(C1)C3)C2)N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-[4-(pyrimidin-2-ylmethoxy)phenyl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid adamantan-2-ylamide | 0.03 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)N2CCN(C3=CC=CC=C23)C2=CC=C(C=C2)OCC2=NC=CC=N2 | C30H33N5O2
